data/oMe_Silver.jsonl
{"reaction_id": "NR-136_5-c1ccccc1_6-CC","level": "medium","name": "Madelung Indole Synthesis","reactants_smiles": ["C(=O)(CC)Nc1ccccc1C([H])(c1ccccc1)","CCCC[Li]"],"products_smiles": ["C1(CC)=C(c1ccccc1)Nc2ccccc12"],"conditions": "Base","mechanism_step_nums": 8,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(CC)[N-]c1ccccc1C([H])(c1ccccc1)","step_weight": 0,"rationale": "Strong base deprotonates the amide nitrogen due to its relatively acidic N–H, enhanced by resonance stabilization of the resulting anion."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(CC)[N-]c1ccccc1[C-](c1ccccc1)","step_weight": 0,"rationale": "The benzylic proton adjacent to the aromatic ring is acidic due to resonance stabilization of the resulting carbanion into the aromatic system."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(CC)([O-])[N-]c2ccccc2C1(c1ccccc1)","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon, favored by intramolecular proximity and the polarization of the C=O bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(CC)(O)[N-]c2ccccc2C1(c1ccccc1)","step_weight": 0,"rationale": "Proton transfer to the alkoxide oxygen stabilizes the intermediate, driven by the high basicity of the alkoxide."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(CC)(O)Nc2ccccc2C1(c1ccccc1)","step_weight": 0,"rationale": "Protonation of the nitrogen restores its neutral form, preparing the system for subsequent dehydration."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(CC)([OH2+])Nc2ccccc2C1(c1ccccc1)","step_weight": 0,"rationale": "Protonation of the hydroxyl group converts it into a better leaving group (water), facilitated by acidic conditions."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(CC)=[NH+]c2ccccc2C1(c1ccccc1)","step_weight": 0,"rationale": "Elimination of water occurs to form the iminium species, driven by the stability of the conjugated heteroaromatic system forming."},{"step": 8,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(CC)=C(c1ccccc1)Nc2ccccc12","step_weight": 0,"rationale": "Deprotonation adjacent to the iminium nitrogen restores aromaticity, yielding the stable indole product."}],"description": "Under strong base, the amide nitrogen and benzylic position are deprotonated, enabling intramolecular nucleophilic attack on the carbonyl to form a cyclic intermediate. Subsequent proton transfers and dehydration yield the indole core via the Madelung synthesis pathway."}
